US04871841
(C) 3-Aminotetrahydro-2-oxo-1(2H)-pyrimidinecarboxamide
Tetrahydro-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-1(2H)-pyrimidinecarboxamide (37.45 g. 128.1 mmol), dissolved in 650 ml N,N-dimethylformamide, was hydrogenated over 15 g palladium on activated carbon for 2 hours. The catalyst was removed by filtration and the solvent evaporated in vacuo. Trituration with ether furnished 20.1 g of the desired product, melting point 153°-156° C.

reactant | Tetrahydro-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-1(2H)-pyrimidinecarboxamide | 128.1 mmol, 37.45 g | O=C1N(CCCN1NC(=O)OCC1=CC=CC=C1)C(=O)N | C13H16N4O4
solvent | N,N-dimethylformamide | 650 ml | CN(C=O)C | C3H7NO
catalyst | palladium on activated carbon | 15 g | [Pd] | Pd
product | 3-Aminotetrahydro-2-oxo-1(2H)-pyrimidinecarboxamide | 20.1 g | NN1C(N(CCC1)C(=O)N)=O | C5H10N4O2
